US04746648
3. Boc-Sta-Ala-Sta-OMe
960 mg of H-Ala-Sta-OMe, 1 g of Boc-Sta-OH, 420 mg of HONSu and 750 mg of DCCI are dissolved successively in 50 ml of CH2Cl2 at RT. A white precipitate appears very quickly. The mixture is stirred at RT and, after 7 h, the DCU formed is filtered off and washed with CH2Cl2. The organic solution is washed successively with KHSO4 --K2SO4 (5% solution in H2O) and NaHCO3 (5% solution in H2O). It is dried over MgSO4 and filtered and the solvent is evaporated off. The product is solubilized in the minimum quantity of a chloroform/MeOH mixture (97.5/2.5, vol/vol) and deposited on the top of a column of silica gel; elution is carried out with the same mixture and the eluate is fractionated.

reactant | H-Ala-Sta-OMe | 960 mg | N[C@@H](C)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)OC | C12H24N2O4
reactant | Boc-Sta-OH | 1 g | N([C@@H](CC(C)C)[C@@H](O)CC(=O)O)C(=O)OC(C)(C)C | C13H25NO5
reactant | DCCI | 750 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Boc-Sta-Ala-Sta-OMe | N([C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)OC)C(=O)OC(C)(C)C | C25H47N3O8
